US05939439
Step 6: 4-(3-Azido-1-imidazol-1-yl-propyl)-benzonitrile
The methanesulfonic acid 3-(4-cyano-phenyl)-3-imidazol-1-yl-propyl ester (600 mg, 2 mmol) was suspended in degassed DMF under argon and sodium azide (650 mg, 10 mmol) was added and the reaction was stirred for 4 hours. The solvent was removed in vacuo and the residue was suspended in ethyl acetate (200 mL) and extracted 2 times with saturated aqueous sodium bicarbonate (100 mL), then water (100 mL), then saturated sodium chloride solution (100 mL). The organic solvent was removed in vacuo and the residue was chromatographed on silica gel eluting with 1:2 ethyl acatate: hexanes. The desired fractions were concentrated in vacuo to give the desired product.

reactant | methanesulfonic acid 3-(4-cyano-phenyl)-3-imidazol-1-yl-propyl ester | 2 mmol, 600 mg | C(#N)C1=CC=C(C=C1)C(CCOS(=O)(=O)C)N1C=NC=C1 | C14H15N3O3S
reactant | sodium azide | 10 mmol, 650 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(3-Azido-1-imidazol-1-yl-propyl)-benzonitrile | N(=[N+]=[N-])CCC(N1C=NC=C1)C1=CC=C(C#N)C=C1 | C13H12N6
